US04560692
(a) 2-(4-chlorophenyl)-4-quinolinol
To a stirred mixture of 16.52 g (0.1 mol) of ethyl o-aminobenzoate, 15.46 g (0.1 mol) of p-choroacetophenone, and 250 ml of diphenyl ether was carefully added 18.67 g of aluminum chloride. This mixture was heated under reflux for 2 hr and then let cool to 60° C. The solids were collected and washed with 2×100 ml of toluene. These solids were triturated twice with a mixture of 500 ml of 6N hydrochloric acid and 50 ml of acetone. Each time the solids were collected they were washed with 100 ml of 6N hydrochloric acid, 3×100 ml of water, and 2×50 ml of acetone. There was obtained 22.34 g of the above-named product, mp 327-330.

reactant | ethyl o-aminobenzoate | 0.1 mol, 16.52 g | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | p-choroacetophenone | 0.1 mol, 15.46 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | aluminum chloride | 18.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | diphenyl ether | 250 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-(4-chlorophenyl)-4-quinolinol | 22.34 g | ClC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)O | C15H10ClNO
